US07501541B2
(3,4-Dimethoxy-phenyl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine (intermediate 1)
A mixture of 3 g (8.8 mmol) N-(3,4-Dimethoxy-phenyl)-2-(4-trifluoromethyl-phenyl)-acetamide and 1 g (26.3 mmol) LiAlH4 in 100 mL THF was stirred for 1 h at room temperature. Water and HCl aq. was added and the mixture was extracted with ethyl acetate. The combined organic phases were washed with water, dried with MgSO4 and evaporated to dryness. The residue was purified by flash column chromatography on silica eluting with a gradient formed from ethyl acetate and heptane. The product containing fractions were combined and evaporated to dryness to yield 0.7 g (24%) of the title compound. MS(m/e): 326.1 (MH+).

reactant | N-(3,4-Dimethoxy-phenyl)-2-(4-trifluoromethyl-phenyl)-acetamide | 8.8 mmol, 3 g | COC=1C=C(C=CC1OC)NC(CC1=CC=C(C=C1)C(F)(F)F)=O | C17H16F3NO3
reactant | LiAlH4 | 26.3 mmol, 1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | O | H2O
reactant | HCl | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3,4-Dimethoxy-phenyl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | 0.7 g, 24% | COC=1C=C(C=CC1OC)NCCC1=CC=C(C=C1)C(F)(F)F | C17H18F3NO2
